US05223498
A mixture of 2-piperidone (3.6 g) in benzene (30 ml), 4-(2-aminobenzyl)morpholine (5.7 g) in benzene (20 ml) and phosphorus oxychloride (3.6 ml) was heated at 65°-70° C. for 48 hours to yield 4-[2-(2-piperidinylideneamino)benzyl]morpholine (m.p. 108°-110° C.) which was recrystallised from hexane.

reactant | 2-piperidone | 3.6 g | N1C(CCCC1)=O | C5H9NO
reactant | 4-(2-aminobenzyl)morpholine | 5.7 g | NC1=C(CN2CCOCC2)C=CC=C1 | C11H16N2O
reactant | phosphorus oxychloride | 3.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 4-[2-(2-piperidinylideneamino)benzyl]morpholine | N1C(CCCC1)=NC1=C(CN2CCOCC2)C=CC=C1 | C16H23N3O
